US07592477B2
Step c) Formation of Tert-Butyl 3-{[(dodecanimidoylamino)oxy]carbonyl}benzyl[4-(trifluoromethyl)benzyl]carbamate
The same procedure as employed in the preparation of Example 10 (step a) but using 3-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid and N-hydroxydodecanimidamide gave the title compound as a pale yellow oil (99%). 1H NMR (CDCl3, 300 MHz) δ 7.91 (m, 2H), 7.59 (m, 2H), 7.36 (m, 4H), 4.78 (br s, 2H), 4.48 (br s, 2H), 4.41 (br s, 2H), 2.34 (m, 2H), 1.65 (m, 2H), 1.50 (s, 9H), 1.26 (br s, 16H), 0.88 (m, 3H). HPLC (Condition A), Rt: 7.34 min (HPLC purity: 95.6%).

reactant | 3-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC=1C=C(C(=O)O)C=CC1 | C21H22F3NO4
reactant | N-hydroxydodecanimidamide | ONC(CCCCCCCCCCC)=N | C12H26N2O
product | Tert-Butyl 3-{[(dodecanimidoylamino)oxy]carbonyl}benzyl[4-(trifluoromethyl)benzyl]carbamate | 99% | C(CCCCCCCCCCC)(=N)NOC(=O)C=1C=C(CN(C(OC(C)(C)C)=O)CC2=CC=C(C=C2)C(F)(F)F)C=CC1 | C33H46F3N3O4
